US08349824B2
The product was prepared in the same manner as described in example 1c using 7-bromo-2-(2-fluoropyridin-4-yl)-[1,2,4]triazolo[1,5-a]pyridine (1.2 g, 4.09 mmol) and tert-butyl carbamate (576 mg, 4.91 mmol) as starting materials. The reaction affords [2-(2-fluoro-pyridin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-yl]-carbamic acid tert-butyl ester (1.126 mg, 83.5%) as light brown powder. MS: m/z=330.0 (M+H+).

reactant | 7-bromo-2-(2-fluoropyridin-4-yl)-[1,2,4]triazolo[1,5-a]pyridine | 4.09 mmol, 1.2 g | BrC1=CC=2N(C=C1)N=C(N2)C2=CC(=NC=C2)F | C11H6BrFN4
reactant | tert-butyl carbamate | 4.91 mmol, 576 mg | C(N)(OC(C)(C)C)=O | C5H11NO2
product | [2-(2-fluoro-pyridin-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-7-yl]-carbamic acid tert-butyl ester | 1.126 mg, 83.5% | C(C)(C)(C)OC(NC1=CC=2N(C=C1)N=C(N2)C2=CC(=NC=C2)F)=O | C16H16FN5O2
